US06900227B2
Preparation of 4-bromo-5-fluoro-benzene-1,2-diol
To a cooled (−78° C.) solution of 4-fluoroveratrole (5.0 g, 32 mmol) in dichloromethane (106 mL) was slowly added a solution of tribromoborane in dichloromethane (1M, 96 mL, 96 mmol, 3.0 eq.). The reaction mixture was warmed to 20° C. and stirred overnight. The reaction mixture was poured into ice water, extracted with ethyl acetate (3 times). The combined organic layer was washed with an aqueous solution of sodium bicarbonate, dried over sodium sulfate and filtered. The volatiles were removed in vacuo. The brown solid was diluted with chloroform (50 mL) and dichloromethane (10 mL). A solution of bromine in carbon tetrachloride (5 ml) was slowly added. After 3 hours, the volatiles were removed in vacuo. Purification by flash chromatography afforded the title compound (6.51 g, 98%) as a brown solid

reactant | 4-fluoroveratrole | 32 mmol, 5.0 g | FC=1C=C(C(=CC1)OC)OC | C8H9FO2
reactant | tribromoborane | BrB(Br)Br | BBr3
solvent | dichloromethane | 106 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 96 mmol, 1M, 96 mL, 3.0 eq. | ClCCl | CH2Cl2
product | 4-bromo-5-fluoro-benzene-1,2-diol | 6.51 g, 98% | BrC=1C=C(C(=CC1F)O)O | C6H4BrFO2
